US07012075B2
To D/L-leucic acid (7.58 g, 57.36 mmol) in MeOH/H2O (9:1, 100 mL) was added a 20% solution of Cs2CO3 in water until the pH reached 7.0. The reaction mixture was concentrated in vacuo to dryness, DMF was added and concentrated in vacuo to dryness again. The solid was suspended in DMF (100 mL) at 0° C., 4-methoxybenzyl chloride (7.8 mL, 51.6 mmol) was added dropwise and the reaction mixture stirred overnight. The mixture was added to water and the product extracted with Et2O, dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 2/8, then 3/7) to afford 4-methoxybenzyl 2-hydroxy-4-methylpentanoate.

reactant | L-leucic acid | 57.36 mmol, 7.58 g | C([C@@H](O)CC(C)C)(=O)O | C6H12O3
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-methoxybenzyl chloride | 51.6 mmol, 7.8 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | MeOH H2O | 100 mL | CO.O
solvent | water | O | H2O
product | 4-methoxybenzyl 2-hydroxy-4-methylpentanoate | OC(C(=O)OCC1=CC=C(C=C1)OC)CC(C)C | C14H20O4
